US04431653
A mixture containing 4(cyanomethyl)-1-piperidinecarboxaldehyde (3.5 g, 0.023 M) and 1,2-diamino-2-methylpropane mono-p-toluenesulfonate (12.4 g, 0.047 M) was heated at 185° C. under nitrogen for 5 hrs. The reaction mixture was dissolved in ethanol (20 ml), basified with sodium ethoxide (0.052 M), filtered and stripped to dryness. The residue was distilled at 150° C. to about 185° C., 0.02 mmHg, to give (3.1 g, 63%) 4-[(4,5-dihydro-5,5-dimethyl-1H-imidazol-2-yl)methyl]-piperidine.

reactant | 4(cyanomethyl)-1-piperidinecarboxaldehyde | 0.023 M, 3.5 g | C(#N)CC1CCN(CC1)C=O | C8H12N2O
reactant | 1,2-diamino-2-methylpropane mono-p-toluenesulfonate | 0.047 M, 12.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC(C)(C)N
reactant | sodium ethoxide | 0.052 M | [O-]CC.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[(4,5-dihydro-5,5-dimethyl-1H-imidazol-2-yl)methyl]-piperidine | 3.1 g, 63% | CC1(CN=C(N1)CC1CCNCC1)C | C11H21N3
